US06927221B2
1-(1-Ethylpropyl)-6-iodo-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline
4-Chloro-3-(2-chloroethyl)-8-iodo-2-methylquinoline (900 mg, 2.46 mmol) was dissolved in 3-aminopentane (10 mL), followed by adding p-toluenesulfonic acid (900 mg). The mixture was sealed at 200° C. for six hours. Water was added to the reaction mixture, extracted with ethyl acetate, and the organic layer was washed with water and brine, dried over magnesium sulfate, and then evaporated. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane), to give the title compound (450 mg, 1.18 mmol) as white crystals.

reactant | 4-Chloro-3-(2-chloroethyl)-8-iodo-2-methylquinoline | 2.46 mmol, 900 mg | ClC1=C(C(=NC2=C(C=CC=C12)I)C)CCCl | C12H10Cl2IN
reactant | p-toluenesulfonic acid | 900 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | O | H2O
reactant | 3-aminopentane | 10 mL | NC(CC)CC | C5H13N
product | 1-(1-Ethylpropyl)-6-iodo-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline | 1.18 mmol, 450 mg | C(C)C(CC)N1CCC=2C(=NC=3C(=CC=CC3C21)I)C | C17H21IN2
